US08912188B2
Into a 10-mL sealed was placed methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (400 mg, 1.36 mmol), 1,3-benzothiazole (368 mg, 2.72 mmol), Pd(PPh3)4 (80 mg, 0.06 mmol) and AcOK (272 mg, 2.72 mmol) under nitrogen atmosphere. After stirring 4 h at 150° C., the reaction mixture was purified by silica gel column chromatography eluting with 10% ethyl acetate in petroleum ether to afford methyl 2-(1,3-benzothiazol-2-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate as a light yellow solid (50 mg, 9.4%).

reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 1.36 mmol, 400 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | 1,3-benzothiazole | 2.72 mmol, 368 mg | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | AcOK | 2.72 mmol, 272 mg | C(=O)(C)O[K]
catalyst | Pd(PPh3)4 | 0.06 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(1,3-benzothiazol-2-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 50 mg, 9.4% | S1C(=NC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)OC | C21H20N4O2S
